US07262185B2
A solution of 2-(4-fluorobenzoyl)-3-propoxypyridine (4.46 g) and sodium azide (3.34 g) in. DMSO (50 ml) was stirred for 22 hours at 90° C. To the reaction mixture was added water, and the mixture was extracted with diethylether. The organic layer was washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure, and a solution of the residue (4.8 g) in THF (50 ml) was added dropwise to a suspension of aluminum lithium hydride (1.3 g) in. THF (40 ml) at 0° C. The mixture was stirred at room temperature for 30 minutes, water (1.3 ml), 15% aqueous solution of sodium hydroxide (1.3 ml) and water (3.9 ml) were sequentially and slowly added dropwise to the solution at 0° C. The mixture was stirred at room temperature for 2 hours, magnesium sulfate was added to the mixture, and the precipitates were removed by filtration (Celite). The reaction mixture was concentrated under reduced pressure, and the residue was recrystallized from ethyl acetate to give (4-aminophenyl)(3-propoxypyridin-2-yl)methanol (2.82 g) as pale yellow crystals.

reactant | 2-(4-fluorobenzoyl)-3-propoxypyridine | 4.46 g | FC1=CC=C(C(=O)C2=NC=CC=C2OCCC)C=C1 | C15H14FNO2
reactant | sodium azide | 3.34 g | [N-]=[N+]=[N-].[Na+]
reactant | DMSO | 50 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (4-aminophenyl)(3-propoxypyridin-2-yl)methanol | 2.82 g | NC1=CC=C(C=C1)C(O)C1=NC=CC=C1OCCC | C15H18N2O2
